US06495604B1
2,4-Difluoronitrobenzene (8.0 g) was dissolved in N,N-dimethylformamide (110 ml) and the solution was admixed with 1H-1,2,4-triazole (3.47 g) and potassium carbonate (6.95 g) and the mixture was stirred under a nitrogen atmosphere at 70° C. for 20 hours. The reaction mixture was diluted with ethyl acetate and washed with water. The aqueous layer was extracted with ethyl acetate, and the ethyl acetate layers were combined and washed 5 times with water and then with saturated brine, and then dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (ethyl acetate/hexane=1:1.3). A desired fraction was concentrated under reduced pressure and the residue was crystallized from a mixture of ethyl acetate and diisopropyl ether to yield 1-(3-fluoro-4-nitrophenyl)-1H-1,2,4-triazole (5.29 g) as yellow powdery crystals.

reactant | 2,4-Difluoronitrobenzene | 8.0 g | FC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | 1H-1,2,4-triazole | 3.47 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 6.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 110 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3-fluoro-4-nitrophenyl)-1H-1,2,4-triazole | 5.29 g | FC=1C=C(C=CC1[N+](=O)[O-])N1N=CN=C1 | C8H5FN4O2
